US04110472
A mixture of 27.6 g of 1-diphenylmethylamino-2-hydroxy-3-chloropropane, 10 ml of a 37% strength solution of formaldehyde and 200 ml of benzene is heated to the reflux temperature, while continuously separating off water. The mixture is then evaporated in vacuo and 3-diphenylmethyl-5-chloromethyloxazolidine is obtained as a yellowish oil which, without purification, is heated together with the reacton solution obtained according to Example 43 from 2.3 g of sodium, 100 ml of ethanol and 17.8 g of 4-trans-propenylguaethol, to 100° in an autoclave for 12 hours. After cooling, the sodium chloride which has precipitated is filtered off. 50 ml of 4 N hydrochloric acid are added to the resulting alcoholic solution of 3-diphenylmethyl-5-(2-ethoxy-5-trans-propenyl-phenoxymethyl)-oxazolidine and the mixture is left to stand for 4 hours at room temperature.

reactant | 1-diphenylmethylamino-2-hydroxy-3-chloropropane | 27.6 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)NCC(CCl)O | C16H18ClNO
reactant | formaldehyde | C=O | CH2O
solvent | benzene | 200 ml | C1=CC=CC=C1 | C6H6
product | 3-diphenylmethyl-5-chloromethyloxazolidine | C1(=CC=CC=C1)C(N1COC(C1)CCl)C1=CC=CC=C1 | C17H18ClNO
